US04634704
A mixture of 1.3 parts of 1-chloro-2-propanone, 5 parts of N-[2-[4-[[1-(2-furanylmethyl)-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]thiourea, 3 parts of potassium carbonate and 68 parts of N,N-dimethylacetamide was stirred overnight at room temperature. Water was added and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The oily residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 2-propanol. The salt was filtered off and dried overnight in vacuo at 100° C., yielding 3.8 parts of 1-(2-furanylmethyl)-N-[1-[2-[(4-methyl-2-thiazolyl)amino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine trihydrochloride monohydrate; mp. 238.5° C. (compound 88).

reactant | 1-chloro-2-propanone | ClCC(C)=O | C3H5ClO
reactant | N-[2-[4-[[1-(2-furanylmethyl)-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]thiourea | O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC(=S)N | C20H26N6OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | Water | O | H2O
product | 1-(2-furanylmethyl)-N-[1-[2-[(4-methyl-2-thiazolyl)amino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine trihydrochloride monohydrate | O.Cl.Cl.Cl.O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC=2SC=C(N2)C | InChI=1S/C23H28N6OS.3ClH.H2O/c1-17-16-31-23(25-17)24-10-13-28-11-8-18(9-12-28)26-22-27-20-6-2-3-7-21(20)29(22)15-19-5-4-14-30-19;;;;/h2-7,14,16,18H,8-13,15H2,1H3,(H,24,25)(H,26,27);3*1H;1H2
